US03959476
4-Amino-3-(2,6-dichlorobenzylidenehydrazino)-5-methyl-1,2,4-triazole hydrochloride (Compound VII).
To a solution of 5.25 g (0.032 mole) of 4-amino-3-hydrazino-5-methyl-1,2,4-triazole hydrochloride in 100 ml of 75 percent ethanol was added 5.6 g (0.032 mole) of 2,6-dichlorobenzaldehyde and 0.5 ml of concentrated hydrochloric acid. The mixture was stirred and heated at reflux for 16 hours. After cooling, the precipitate was collected and washed with chilled ethanol and ether. Yield: 7.0 g, m.p. 244°-245° (D).

reactant | 4-amino-3-hydrazino-5-methyl-1,2,4-triazole hydrochloride | 0.032 mole, 5.25 g | Cl.NN1C(=NN=C1C)NN
reactant | 2,6-dichlorobenzaldehyde | 0.032 mole, 5.6 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Amino-3-(2,6-dichlorobenzylidenehydrazino)-5-methyl-1,2,4-triazole hydrochloride | Cl.NN1C(=NN=C1C)NN=CC1=C(C=CC=C1Cl)Cl | InChI=1S/C10H10Cl2N6.ClH/c1-6-15-17-10(18(6)13)16-14-5-7-8(11)3-2-4-9(7)12;/h2-5H,13H2,1H3,(H,16,17);1H
